US04092321
2-Amino-5-(phenylthio)pyridine (16.9 g., 0.1 mole) is added to 40 ml. of 48% hydrobromic acid, cooled to 10° C in an ice bath. While maintaining a temperature of 0°, the resultant hydrobromide salt is treated with 37.5 g. of bromine dropwise. The temperature is reduced and maintained at -10° while 14.0 g. of sodium nitrite in 200 ml. of water is added dropwise. After 1 hour at 0° C, the pH of the reaction mixture is adjusted to pH7 with 30% aqueous sodium hydroxide. Following the same workup as for the 2-chloro ananlogue, there is obtained 2-bromo-5-(phenylthio) pyridine.

reactant | 2-Amino-5-(phenylthio)pyridine | 0.1 mole, 16.9 g | NC1=NC=C(C=C1)SC1=CC=CC=C1 | C11H10N2S
reactant | hydrobromic acid | Br | BrH
reactant | bromine | BrBr | Br2
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 2-bromo-5-(phenylthio) pyridine | BrC1=NC=C(C=C1)SC1=CC=CC=C1 | C11H8BrNS
